resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.125465
R2 0 n2 0.980428
R3 0 n4 0.983776
R4 n1 n3 1.004004
R5 n1 n5 1.018159
R6 n2 n3 1.019483
R7 n2 n6 1.014603
R8 n3 n7 0.992312
R9 n4 n5 1.011429
R10 n4 n6 1.012688
R11 n5 n7 0.987496
R12 n6 n7 1.016879
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
